US07868014B2
Add 1-iodo-2,4,6-trichlorobenzene (1500 mg, 4.88 mmol), zinc cyanide (345 mg, 2.94 mmol) and tetrakis(triphenylphosphine)palladium(0) (282 mg, 0.244 mmol) to anhydrous DMF (30 mL). Heat to 85° C. overnight. Cool to room temperature, dilute with toluene, wash with 2 N ammonium hydroxide (3×) and saturated aqueous sodium chloride and concentrate. Purify by silica gel chromatography, eluting with hexanes/dichloromethane to give 2,4,6-trichlorobenzonitrile (850 mg, 84%): 1H NMR (400 MHz, CDCl3) δ 7.76 (s, 1H), 7.65 (s, 1H).

reactant | 1-iodo-2,4,6-trichlorobenzene | 4.88 mmol, 1500 mg | IC1=C(C=C(C=C1Cl)Cl)Cl | C6H2Cl3I
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | zinc cyanide | 2.94 mmol, 345 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.244 mmol, 282 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2,4,6-trichlorobenzonitrile | 850 mg, 84% | ClC1=C(C#N)C(=CC(=C1)Cl)Cl | C7H2Cl3N
